US07166588B2
2-[[4-(1-Methylethoxy)phenyl]methyl]propanedioic acid dimethyl ester
1-(Chloromethyl)-4-(1-methylethoxy)benzene (20.5 g, 111 mmol), malonic acid dimethyl ester (102.5 g, 776 mmol) and potassium carbonate (46.5 g, 332 mmol, anhydrous, freshly ground) are stirred in absolute DMF (250 ml) for 24 hours at 70° C.

reactant | 1-(Chloromethyl)-4-(1-methylethoxy)benzene | 111 mmol, 20.5 g | ClCC1=CC=C(C=C1)OC(C)C | C10H13ClO
reactant | malonic acid dimethyl ester | 776 mmol, 102.5 g | COC(CC(=O)OC)=O | C5H8O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 2-[[4-(1-Methylethoxy)phenyl]methyl]propanedioic acid dimethyl ester | COC(C(C(=O)OC)CC1=CC=C(C=C1)OC(C)C)=O | C15H20O5
